US06265434B1
Step A: (3-Carboxypropyl)triphenylphosphonium chloride
A solution of 1 g (9.2 mmol) of 3-chloropropanoic acid and 2.4 g (9.2 mmol) of triphenylphosphine was refluxed in 10 mL of toluene overnight. After cooling, the mixture was concentrated to give 3.25 g (95%) of the title compound.

reactant | 3-chloropropanoic acid | 9.2 mmol, 1 g | ClCCC(=O)O | C3H5ClO2
reactant | triphenylphosphine | 9.2 mmol, 2.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (3-Carboxypropyl)triphenylphosphonium chloride | 3.25 g, 95% | [Cl-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H21O2P.ClH/c23-22(24)17-10-18-25(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16H,10,17-18H2;1H
